US07326788B2
b. 5-Cyano-2-[2-(3-methyl-isoxazol-5-yl)-acetylamino]-benzoic acid methyl ester
A solution of 2-amino-5-cyano-benzoic acid methyl ester (1.50 g, 8.51 mmol) and (3-methyl-isoxazol-5-yl)-acetic acid (1.32 g, 9.36 mmol) in 40 ml of POCl3 was heated at 80° C. for 2 hr and then cooled to RT. Treated with 50 mL of EtOAc, the mixture was washed with H2O (3×40 ml), sat. NaHCO3 (40 ml), brine (40 ml) and dried (Na2SO4). Removal of the solvent under reduced pressure gave 2.31 g (91%) of product as a light yellow solid: 1H-NMR (CDCl3; 400 MHz) δ 11.49 (s, 1H), 8.85 (d, 1H, J=8.8 Hz), 8.35 (d, 1H, J=2.0 Hz), 7.79 (dd, 1H, J=8.8, 2.0 Hz), 6.20 (s, 1H), 3.97 (s, 3H), 3.95 (s, 2H), 2.33 (s, 3H). Mass spectrum (ESI, m/z): Calcd. for C15H13N3O4, 300.1 (M+H), found 299.9.

reactant | 2-amino-5-cyano-benzoic acid methyl ester | 8.51 mmol, 1.50 g | COC(C1=C(C=CC(=C1)C#N)N)=O | C9H8N2O2
reactant | (3-methyl-isoxazol-5-yl)-acetic acid | 9.36 mmol, 1.32 g | CC1=NOC(=C1)CC(=O)O | C6H7NO3
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | POCl3 | 40 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Cyano-2-[2-(3-methyl-isoxazol-5-yl)-acetylamino]-benzoic acid methyl ester | 2.31 g, 91% | COC(C1=C(C=CC(=C1)C#N)NC(CC1=CC(=NO1)C)=O)=O | C15H13N3O4
